US07989461B2
6-(1-Chloro-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine (8.50 g, 25.4 mmol), 3-(trifluoromethyl)benzenamine (4.30 g, 26.7 mmol), Davephos (0.40 g, 1.02 mmol) and tris(dibenzylideneacetone)dipalladium (0) (0.465 g, 0.508 mmol) were equally divided into 6 and added to 6 clear microwave vials along with 10 mL of dioxane in each vial. Nitrogen was bubbled into each vial for 10 min and lithium bis(trimethylsilyl)amide (1.0 M in THF) (50.8 mL, 50.8 mmol) divided into 6 (8.46 mL each) was added to the vials. The vials were then capped and heated to 150° C. in a Personal Chemistry Smith Synthesizer for 10 min. The reaction mixtures were combined and diluted with ethyl acetate. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 20 to 100% EtOAc in hexanes and recrystallization from 3:1 ether/ethyl acetate to give N-methyl-6-(6-methyl-1-(3-(trifluoromethyl)phenylamino)isoquinolin-5-yl)quinazolin-2-amine (6.0 g, 51%) as a white solid. MS (M+H)+ 460.

reactant | 6-(1-Chloro-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | 25.4 mmol, 8.50 g | ClC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C19H15ClN4
reactant | 3-(trifluoromethyl)benzenamine | 26.7 mmol, 4.30 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | lithium bis(trimethylsilyl)amide | 50.8 mmol, 1.0 M, 50.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.508 mmol, 0.465 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Davephos | 1.02 mmol, 0.40 g | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
product | N-methyl-6-(6-methyl-1-(3-(trifluoromethyl)phenylamino)isoquinolin-5-yl)quinazolin-2-amine | 6.0 g, 51% | CNC1=NC2=CC=C(C=C2C=N1)C1=C2C=CN=C(C2=CC=C1C)NC1=CC(=CC=C1)C(F)(F)F | C26H20F3N5
